US08003806B2
3-{6-[(4-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of ethyl 3-{6-[(4-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (15 mg, 32 μmol) in hydrochloric acid (20 mL of a 5N solution) was stirred at room temperature for 96 hours. The solution was then evaporated in vacuo, and the residue was purified by RP-HPLC to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=2.86 min, MH+ 443].

reactant | ethyl 3-{6-[(4-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 32 μmol, 15 mg | NC(=N)NC1=CC=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C2)C=C1 | C26H26N6O3
solvent | hydrochloric acid | Cl | ClH
product | 3-{6-[(4-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | NC(=N)NC1=CC=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C2)C=C1 | C24H22N6O3
